US07834063B2
A. 5-Nitro-2-[(phenylmethyl)oxy]pyridine
To a mixture of 2-chloro-5-nitropyridine (3.28 g, 20.0 mmol), benzyl alcohol (3.09 mL, 30.0 mmol), KOH (4.49 g, 80.0 mmol), and K2CO3 (2.76 g, 20.0 mmol) in toluene (100 mL) at rt was added tris[2-(2-methoxyethoxy)ethyl]amine (0.646 g, 2.00 mmol). The mixture was stirred for 20 min, poured into water, and the layers were separated. The aqueous layer was adjusted to pH 7 by addition of solid KHSO4, and extracted with EtOAc (×3). Combined organics were washed (H2O, brine), dried over Na2SO4, filtered and concentrated in vacuo. The residue was recrystallized from EtOH/H2O, affording 3.18 g of the title compound as tan needles: 1H NMR (400 MHz, CDCl3) δ 9.10 (dd, J=2.9, 0.6 Hz, 1H), 8.37 (dd, J=9.1, 2.9 Hz, 1H), 7.48-7.44 (m, 2H), 7.42-7.33 (m, 3H), 6.88 (dd, J=9.1, 0.6 Hz, 1H), 5.49 (s, 2H).

reactant | 2-chloro-5-nitropyridine | 20.0 mmol, 3.28 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | benzyl alcohol | 30.0 mmol, 3.09 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | KOH | 80.0 mmol, 4.49 g | [OH-].[K+]
reactant | K2CO3 | 20.0 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 2.00 mmol, 0.646 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-Nitro-2-[(phenylmethyl)oxy]pyridine | 3.18 g | [N+](=O)([O-])C=1C=CC(=NC1)OCC1=CC=CC=C1 | C12H10N2O3
